US07067517B2
4-[Methyl-(2-pyridin-2-yl-ethyl)-amino]-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester
The title product was prepared from methyl-piperidin-4-yl-(2-pyridin-2-yl-ethyl)-amine and 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate, 5 equivalent of diisopropylamine was added, preparative HPLC (method C) (48%, colourless oil). HPLC-MS m/z=501.1 (M+1), Rt: 2.77 min.

reactant | methyl-piperidin-4-yl-(2-pyridin-2-yl-ethyl)-amine | CN(CCC1=NC=CC=C1)C1CCNCC1 | C13H21N3
reactant | 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F | C13H7ClF3NO3
reactant | diisopropylamine | 5 equivalent | C(C)(C)NC(C)C | C6H15N
product | 4-[Methyl-(2-pyridin-2-yl-ethyl)-amino]-piperidine-1-carboxylic acid 4-(5-trifluoromethyl-pyridin-2-yloxy)-phenyl ester | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)OC(=O)N1CCC(CC1)N(CCC1=NC=CC=C1)C)(F)F | C26H27F3N4O3
